Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Bactrim
 
Attending: ___.
 
Chief Complaint:
SOB
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ y/o man with severe oxygen dependent COPD who continues to 
smoke cigarettes and has been admitted multiple times recently 
for 'COPD Flares' who is readmitted today for the same (was sent 
to the ED today from the ___ clinic where he saw his 
___ NP.  He reports that his breathing has been 
labored and worse than baseline over the past few days.  He has 
not been taking his prednisone as he was supposed to and he 
continued to smoke.

ROS - on my examination pt. is acutely dyspneic.  Unable to 
speak in full sentences.  Endorses SOB.  Denies CP or fever.  
Other ROS deferred given acute dyspnea and pts inability to 
speak in full sentences.
 
Past Medical History:
1. Severe COPD: followed by Dr. ___, on prednisone and home 
oxygen (4L NC) at baseline, recently he has been having monthly 
admissions for COPD: PFT's ___: FEV1 19%, FEV1/FVC 43%  
2. Chronic Systolic CHF: TTE ___ LVEF>55%, although patient 
denies this  
3. Gastritis/GERD  
4. h/o SBO  
5. ___ Abuse: Previous 5PPD, now ___ cigs/day  
6. Diabetes Mellitus type 2 
7. Diverticulosis  
8. C6-C7 HERNITATION  
9. B12 Deficiency- on monthly injections 
10. Obesity with possible OSA, but pt refuses sleep study or 
CPAP  
11. Psoriasis  
12. Hypertension  
13. Glaucoma  
14. Recent LLE cellulitis ___  
 
Social History:
___
Family History:
Mother - died of lung cancer in ___
Father - died of lung cancer in ___
Sister- died of lung cancer in ___

 
Physical Exam:
Acutely dyspneic.  
AF.  SBP 195.  HR 130.  RR 36.  O2 sat 86% on 4 litres nc. 
PLB, tachypnea.  Unable to speak in full sentences.
Alert, oriented.  
Tachycardic, no MRG
Diminished to absent breath sounds throughout.
Obese, soft, nt, nd, bs present.
No edema.  
Diffuse psoriasis.
 
Pertinent Results:
___ 02:45PM URINE  ___ BACTERIA-OCC YEAST-NONE 
___ 02:45PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-500 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-7.0 
LEUK-NEG
___ 01:42PM   LACTATE-0.8
___ 12:45PM   GLUCOSE-138* UREA N-20 CREAT-0.7 SODIUM-146* 
POTASSIUM-4.1 CHLORIDE-101 TOTAL CO2-43* ANION GAP-6*
___ 12:45PM   cTropnT-<0.01
___ 12:45PM   WBC-11.0 RBC-3.45* HGB-10.0* HCT-30.9* MCV-89 
MCH-29.1 MCHC-32.5 RDW-14.4\

CXR: ___ ___ M  ___  ___ 
 
Radiology Report CHEST (PA & LAT) Study Date of ___ 1:47 ___ 

 
  
___   ___ 1:47 ___ 
CHEST (PA & LAT)   Clip # ___   
Reason: Please assess for pneumonia  
 

 
UNDERLYING MEDICAL CONDITION: 
   ___ year old man with severe COPD and 4 days increasing cough. 
 
REASON FOR THIS EXAMINATION: 
   Please assess for pneumonia  

 
 
Final Report 
CHEST RADIOGRAPH PERFORMED ON ___ 
  
Comparison made with a prior study from ___. 
  
CLINICAL HISTORY: COPD, four days of increasing cough. Question 
pneumonia. 
  
FINDINGS: PA and lateral views of the chest are obtained. The 
lungs are 
hyperexpanded with a widened AP diameter and flattened 
diaphragms likely 
related to underlying COPD. There is blunting at the right CP 
angle which may 
be related to pleural thickening or a small effusion. Heart size 
is enlarged. 
There is no overt CHF. Irregularity along the diaphragmatic 
surface on the 
frontal projection may be related to small eventrations. There 
is no 
pneumothorax. Bony structures are intact. 
  
IMPRESSION: Emphysema, cardiomegaly, small right effusion. No 
gross change 
from prior study. 
  
___. ___ 
___: ___ 3:49 ___ 
 

 
Brief Hospital Course:
Mr. ___ is a ___ year old man with severe COPD, on 4L by NC 
chronically, admitted ___ with labored breathing.  Per the 
admit note, he was inadvertenly taking the wrong dose of 
prednisone and continues to smoke a small quantity of 
cigarettes.  He has shown improvement with nebulizers, steroids 
and oxygen as well as levofloxacin.  Pulmonary consultation was 
obtained and agreed with plan of care as outlined below.  On 
___, patient's BUN/Cr were elevated (climbing to 1.2 from 0.7 
on admission).  PO fluids were encouraged, he was given 250 cc 
NS bolus.  His furosemide and lisinoprl were discontinued.  This 
will need to be resumed pending renal improvement.

Problem list:
## AECOPD, Steroid/oxygen dependent  
## Type 2 DM - uncontrolled  
## Anemia NOS  
## Hypertension  
## Chronic diastolic heart failure  
## glaucoma  
## GERD  
## Osteoporosis  
## psoriasis  
## chronic non-healing ulceration of lower extremity  
## probable malnutrition 
## psoriasis 

PLAN:
## Continue oxygen, steroids with slow taper.  Decreased from 60 
mg of prednisone on ___ to 55 mg of prednisone.  He should NOT 
be lowered below 20 mg of prednisone daily. Will complete 
levofloxacin on ___. Continue PCP ___.  Spiriva 
will need to be resumed per ___ rec's on discharge.
## ___ Consult appreciated for diabetes management.  Was 
managed on metformin and glyburide as well as a humalog sliding 
scale.  ___ recommended NO INSULIN on discharge to home as 
the steroid taper continues.  His Glyburide was changed to 
Glipizide since it has a shorter duration of action and Mr. 
___ tends to have high sugars during the day but not at night.
## continue BP control for chronic dCHF.  Will need to resume 
furosemide when intravascular volume depletion is improved.  
Consider checking for urine eosinophils.  Urine electrolytes 
will be less useful until ___ as he has been on furosemide.
## eye gtt  
## continue calcium/Vit D supplementation  
## MVI, nutritional supplements  
## PPI
## creams as per Derm for Psoriasis
 
Medications on Admission:
5% SALICYCLIC ACID IN CLOBETASOL OINTMENT -   - apply to
psoriasis daily do not exceed one month
ALBUTEROL SULFATE - 2.5 mg/0.5 mL Solution for Nebulization -
0.5ml diluted in 2.5ml NS by inhalation  over 5 to 15 minutes 
___
times a day for severe SOB not relieved by inhalers
ALBUTEROL SULFATE [PROAIR HFA] - 90 mcg HFA Aerosol Inhaler - 2
pufs inhaled 4 times a day as needed 30 day supply
ALENDRONATE [FOSAMAX] - 70 mg Tablet - 1 Tablet by mouth once a
week on the same day of the week.  Take on an empty stomach with
full glass of water.  Remain upright (standing or sitting) for 
30
minutes after taking this medicine and don't take other pills or
eat or drink for 30  minutes
AMLODIPINE - 5 mg Tablet - 1 Tablet by mouth every day
BATH SEAT WITH BACK -   - AS DIRECTED/DX: COPD, O2 DEPENDENT,
DIABETES,NEEDED LIFETIME FOR HOME USE
FLUOCINOLONE-SHOWER CAP ___ SCALP OIL] - 0.01 % 
Oil
- apply to scalp at bedtime under showercap as needed for once
weekly
FLUTICASONE [FLONASE] - 50 mcg Spray, Suspension - 2 sprays both
nostrils once a day
FLUTICASONE-SALMETEROL [ADVAIR DISKUS] - 500 mcg-50 mcg/Dose 
Disk
with Device - One Whiff inhaled twice a day
FUROSEMIDE - 20 mg Tablet - 3 Tablet(s) by mouth DAILY (60mg) as
per ___ Renal Dr. ___ - 2.5 mg Tablet - one Tablet by mouth every other day
(on the same day as prednisone)
HUMIDIFIER FOR HOME O2 -   - USE AS DIRECTED
HYDROCORTISONE - 2.5 % Cream - Apply to affected areas twice
daily for up to 2 weeks/month max twice a day
LACTULOSE - 10 gram/15 mL Solution - 1 tablespoonful(s) by mouth
twice a day for constipation.  Hold for loose stool
LISINOPRIL -  (Dose adjustment - no new Rx) - 20 mg Tablet - 1
Tablet(s) by mouth every day
METFORMIN [GLUCOPHAGE] - 1,000 mg Tablet - 1 Tablet by mouth
twice  a day for blood sugar
ONE TOUCH ULTRA -   - use glucometer to check blood sugars as
directed
ONE TOUCH ULTRA PEN -   - use as directed to check bloodsugars
twice a day
OXYGEN-AIR DELIVERY SYSTEMS -  Device - SAT RATES: AT REST=86;
AMB=77
PANTOPRAZOLE - 40 mg Tablet, Delayed Release (E.C.) - 1 Tablet 
by
mouth twice a day
PREDNISONE -  (Not Taking as Prescribed: pt titrated down to 
15mg
per his report ___ - 20 mg Tablet - 1 Tablet(s) by mouth
daily as per pulm
SIMVASTATIN - 5 mg Tablet - 1 Tablet by mouth at bedtime for
cholesterol
TAMSULOSIN [FLOMAX] - 0.4 mg Capsule, Sust. Release 24 hr - 1
Capsule by mouth at bedtime for urination
TIOTROPIUM BROMIDE [SPIRIVA WITH HANDIHALER] - 18 mcg Capsule,
w/Inhalation Device - 1 Capsule(s) inhaled DAILY (Daily)
TRIAMCINOLONE ACETONIDE - 0.1 % Ointment - apply to ear twice a
day stop using once rash clear
VITAMIN B-12 (CYANOCOBALAMIN) - 1000MCG/ML Solution - ONE CC Q
MONTH INTRAMUSCULARLY
XALATAN - 0.005% Drops - ONE GTT EACH EYE AT BEDTIME
 
Medications - OTC
ASPIRIN, BUFFERED [BUFFERED ASPIRIN] - 325 mg Tablet - 1
Tablet(s) by mouth qd with food
BLOOD SUGAR DIAGNOSTIC [ONE TOUCH ULTRA TEST] -     Strip - use 
4
times a day to check blood sugars
CALCIUM CARBONATE-VITAMIN D3 [CALCIUM 500 + D] - 500 mg-200 unit
Tablet - 1 Tablet(s) by mouth twice a day for bone health
DOCUSATE SODIUM [COLACE] - 100 mg Capsule - 1 Capsule by mouth
three times a day for constipation. Hold for loose stool
FERROUS SULFATE - 325 mg (65 mg Iron) Tablet - 1 (One) Tablet(s)
by mouth once a day
LANCETS [ONE TOUCH ULTRASOFT LANCETS] -   Misc - use as directed
to check bloodsugars
MAGNESIUM OXIDE [MAGOX] - 400 mg Tablet - 1 Tablet(s) by mouth
once a day
ONE TOUCH BASIC SYSTEM -  Kit - USE AS DIRECTED
SENNA - 8.6 mg Tablet - 2 Tablets by mouth at bedtime for
constipation.  Hold for loose stools
SYRINGE,SAFETY/NDL,1ML - 28GX0.5" Syringe - TO USE WITH VITAMIN
B12 INJECTIONS

 
Discharge Medications:
1. Albuterol Sulfate 2.5 mg /3 mL (0.083 %) Solution for 
Nebulization Sig: One (1)  Inhalation Q2H (every 2 hours) as 
needed for shortness of breath or wheezing.  
2. Ipratropium Bromide 0.02 % Solution Sig: One (1)  Inhalation 
Q6H (every 6 hours).  
3. Amlodipine 5 mg Tablet Sig: One (1) Tablet PO DAILY (Daily): 
hold SBP < 100.  
4. Lactulose 10 gram/15 mL Syrup Sig: Thirty (30) ML PO Q8H 
(every 8 hours) as needed for constipation.  
5. Metformin 500 mg Tablet Sig: Two (2) Tablet PO BID (2 times a 
day).  
6. Pantoprazole 40 mg Tablet, Delayed Release (E.C.) Sig: One 
(1) Tablet, Delayed Release (E.C.) PO Q12H (every 12 hours).  
7. Simvastatin 10 mg Tablet Sig: 0.5 Tablet PO DAILY (Daily).  
8. Tamsulosin 0.4 mg Capsule, Sust. Release 24 hr Sig: One (1) 
Capsule, Sust. Release 24 hr PO HS (at bedtime).  
9. Latanoprost 0.005 % Drops Sig: One (1) Drop Ophthalmic HS (at 
bedtime).  
10. Aspirin 325 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

11. Ferrous Sulfate 325 mg (65 mg Iron) Tablet Sig: One (1) 
Tablet PO DAILY (Daily).  
12. Heparin (Porcine) 5,000 unit/mL Solution Sig: One (1)  
Injection TID (3 times a day).  
13. Levofloxacin 250 mg Tablet Sig: Three (3) Tablet PO DAILY 
(Daily) for 3 days: last day is ___.  
14. Atovaquone 750 mg/5 mL Suspension Sig: 1500 (1500) mg PO 
DAILY (Daily).  
15. Alendronate 70 mg Tablet Sig: One (1) Tablet PO QMON (every 
___.  
16. Calcium Carbonate 500 mg Tablet, Chewable Sig: One (1) 
Tablet, Chewable PO TIDAC (3 times a day (before meals)).  
17. Cholecalciferol (Vitamin D3) 400 unit Tablet Sig: One (1) 
Tablet PO BID (2 times a day).  
18. Senna 8.6 mg Tablet Sig: ___ Tablets PO HS (at bedtime) as 
needed for constipation.  
19. Multivitamin     Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
20. Albuterol Sulfate 2.5 mg /3 mL (0.083 %) Solution for 
Nebulization Sig: One (1)  Inhalation Q4H (every 4 hours).  
21. Guaifenesin 100 mg/5 mL Syrup Sig: ___ MLs PO Q6H (every 6 
hours).  
22. Fluticasone-Salmeterol 500-50 mcg/Dose Disk with Device Sig: 
One (1) Disk with Device Inhalation twice a day as needed for 
shortness of breath or wheezing.  
23. Insulin Lispro 100 unit/mL Solution Sig: One (1)  
Subcutaneous ASDIR (AS DIRECTED): see printed sliding scale.  
24. Triamcinolone Acetonide 0.1 % Ointment Sig: One (1) Appl 
Topical BID (2 times a day) as needed for psoriasis for 13 days. 
 
25. Clobetasol 0.05 % Ointment Sig: One (1) Appl Topical BID (2 
times a day) as needed for psoriasis for 13 days.  
26. Lorazepam 0.5 mg Tablet Sig: ___ Tablets PO HS (at bedtime) 
as needed for insomnia.  
27. Prednisone 10 mg Tablet Sig: 5.5 Tablets PO DAILY (Daily): 
Please follow SLOW taper of prednisone, going NO LOWER than 20 
mg daily.  Please consult with ___ physician about timing of 
taper.  Consider reducing by 5 mg every 3 days with goal 20 
mg/day.  
28. Glipizide 5 mg Tablet Sig: 0.5 Tablet PO DAILY (Daily).  
29. Spiriva with HandiHaler 18 mcg Capsule, w/Inhalation Device 
Sig: One (1)  Inhalation once a day.  
30. Outpatient Lab Work
Chem-7 with BUN/Cr on ___ MD on ___ with results

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
## AECOPD, Steroid/oxygen dependent 
## Acute Renal Failure 
## Type 2 DM - uncontrolled  
## Anemia NOS  
## Hypertension  
## Chronic diastolic heart failure  
## glaucoma  
## GERD  
## Osteoporosis  
## psoriasis  
## chronic non-healing ulceration of lower extremity  
## probable malnutrition 
## psoriasis 

 
Discharge Condition:
Fair

 
Discharge Instructions:
Take all medications as directed.
Return to the hospital if breathing worsens, if patient becomes 
ill-appearing, hemodynamically unstable or develops hypoxemia.
.
PLEASE CHECK CHEM-7 WITH BUN AND CR ON ___ AND MONITOR RENAL 
FUNCTION AND URINE OUTPUT CAREFULLY***  ___ MD WITH RESULTS.
 
Followup Instructions:
___